US04233216
(C) Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]glycolat
To a solution of diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]glyoxalate (2.312 g) in a mixture of methylene chloride (10 ml) and glacial acetic acid (10 ml) is added activated zinc powder (2.50 g) with stirring, and the mixture is stirred for 3 hours at room temperature. The reaction mixture is filtered through a layer of Celite which is washed with methylene chloride. The filtrate is washed with water, dried over sodium sulfate, and evaporated under reduced pressure to give the product as a mixture of epimers at position α.

reactant | diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]glyoxalate | 2.312 g | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)NC(CC1=CC=CC=C1)=O | C29H26N2O7
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 2.50 g | [Zn] | Zn
product | Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]glycolat | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)O)=O)NC(CC1=CC=CC=C1)=O | C29H28N2O7
